US06359134B1
1-(6-Chloronaphthalene-2-sulfonyl)-4-[4-(N-methoxycarbonylamidino)benzoyl]piperazine
To a solution of 1-(6-chloronaphthalene-2-sulfonyl)piperazine hydrochloride (143 mg) and triethylamine (208 mg) in dichloromethane (10 ml) was added 4-amidinobenzoylchloride hydrochloride (108 mg), and the solution was stirred at room temperature for 1 hour, to which were added DMF (10 ml) and methyl chloroformate (200 mg). The solution was stirred at 50° C. for 30 minutes and the reaction solution was concentrated . The residue was dissolved in ethyl acetate, washed with water and sodium chloride solution, dried and concentrated. The residue was purified with silica gel column chromatography (ethyl acetate/methanol=40:1) to give colorless crystals of the title compound (41 mg).

reactant | 1-(6-chloronaphthalene-2-sulfonyl)piperazine hydrochloride | 143 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
reactant | triethylamine | 208 mg | C(C)N(CC)CC | C6H15N
reactant | 4-amidinobenzoylchloride hydrochloride | 108 mg | Cl.C(N)(=N)C1=CC=C(C(=O)Cl)C=C1
reactant | methyl chloroformate | 200 mg | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(6-Chloronaphthalene-2-sulfonyl)-4-[4-(N-methoxycarbonylamidino)benzoyl]piperazine | 41 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C(NC(=O)OC)=N)=O | C24H23ClN4O5S
